US05123951
To a stirred solution of 7.72 grams (0.03 mole) of N-(4-chlorophenyl)-2-(dimethyloxosulfuranylidene)acetamide prepared in Part A of this Example, in 80 milliliters of anhydrous acetonitrile, was added 1.70 grams (0.02 mole) of ethyl chloroformate dropwise at room temperature and the resulting mixture then heated and stirred at 50° C. for an approximate 16-hour period. The hydrochloride by-product was filtered off and the filtrate vacuum evaporated to give a yellow solid. The latter was digested with cold 2N HCl to remove unreacted starting material and the undissolved solid was collected and recrystallized from methanol. Vacuum drying of the resulting solid gave 2.73 grams (0.008 mole) of ethyl 3-[(4-chlorophenyl)amino]-2-(dimethyloxosulfuranylidene)-3-oxopropanoate having a melting point of 162° C.-163° C.

reactant | N-(4-chlorophenyl)-2-(dimethyloxosulfuranylidene)acetamide | 0.03 mole, 7.72 grams | ClC1=CC=C(C=C1)NC(C=S(=O)(C)C)=O | C10H12ClNO2S
reactant | ethyl chloroformate | 0.02 mole, 1.70 grams | ClC(=O)OCC | C3H5ClO2
reactant | HCl | 2N | Cl | ClH
solvent | acetonitrile | 80 milliliters | C(C)#N | C2H3N
product | ethyl 3-[(4-chlorophenyl)amino]-2-(dimethyloxosulfuranylidene)-3-oxopropanoate | 0.008 mole, 2.73 grams | ClC1=CC=C(C=C1)NC(C(C(=O)OCC)=S(=O)(C)C)=O | C13H16ClNO4S
